data/mechanism_extracts/JACS/10.1021_ja910586v.json
{"doi": "10.1021_ja910586v", "journal": "JACS", "is_review": false, "rxn_class_summary": "Intramolecular anodic olefin coupling reaction forming substituted pyrrolidine and piperidine rings via oxidation of electron-rich olefin tethered to a tosylamide nucleophile, trapped by methanol", "mechanism_family": ["radical_anodic", "radical_polar_crossover", "radical_cation", "cation_initiated"], "electrochemical_role": "Anodic oxidation of electron-rich olefin (enol ether, thioenol ether, ketene dithioacetal, styrene, allylsilane, or diene) to a radical cation at an RVC anode; second anodic oxidation of the cyclized C-radical to a cation that is trapped by methanol", "key_intermediates": [{"name": "olefin-derived radical cation (intermediate 17)", "smiles": null, "role": "reactive"}, {"name": "cyclic carbon-centered radical (18) formed by intramolecular attack of tosylsulfonamide nitrogen on radical cation", "smiles": null, "role": "transient"}, {"name": "stabilized cyclic cation (19) from oxidation of radical 18", "smiles": null, "role": "reactive"}, {"name": "methanol-trapped cyclic product (11)", "smiles": null, "role": "transient"}, {"name": "deprotonation/elimination ketene acetal byproduct (16) leading to overoxidation product 12", "smiles": null, "role": "off_pathway"}, {"name": "lithiated (deprotonated) sulfonamide anion / N-centered radical (alternative pathway)", "smiles": null, "role": "reactive"}], "electron_flow": "The anode removes one electron from the electron-rich olefin to give a radical cation; the pendant tosylsulfonamide nitrogen (or its lithiated anion) attacks intramolecularly to give a cyclic C-radical, which is then oxidized at the anode to a cation that is trapped by methanol to deliver the cyclic amino ether product.", "rate_determining_step": "Intramolecular cyclization of the nitrogen nucleophile onto the olefin-derived radical cation must outcompete deprotonation/elimination; final methanol trapping of cation 19 also affects yield", "probe_reagents": [{"name": "LiOMe (replacing 2,6-lutidine as base)", "smiles": "[Li+].[O-]C", "purpose": "other", "observation": "Raising pH by using LiOMe dramatically improved cyclization yields (e.g., 9a: 20%->70-82%; 9b: 54%->85-90%), consistent with deprotonated sulfonamide acting as better nucleophile or N-radical precursor"}, {"name": "Methyl substitution at beta-carbon of olefin (9d vs 9c)", "smiles": null, "purpose": "other", "observation": "Removing the acidic beta-H suppressed elimination/overoxidation pathway, supporting deprotonation of radical cation 15 as side reaction"}, {"name": "gem-dimethyl substrate 29a vs mono-methyl 29b", "smiles": null, "purpose": "other", "observation": "gem-Dimethyl group blocks elimination and raised six-membered ring yield to 81%, vs 35% for 29b, implicating elimination from allylic position as competing pathway"}, {"name": "Trisubstituted allylsilane substrate 34", "smiles": null, "purpose": "other", "observation": "A1,3-strain forces allylic H out of overlap with the radical cation pi-system, slowing elimination and giving 71% cyclized product as single diastereomer"}, {"name": "Electrolyte/solvent variation (Et4NOTs vs LiClO4; MeOH vs MeOH/THF)", "smiles": null, "purpose": "other", "observation": "Higher [MeOH] near anode (lower electrolyte conc., LiClO4) improves trapping of cation 19, supporting the proposed cation-trapping final step"}, {"name": "NOESY on 11e", "smiles": null, "purpose": "other", "observation": "Single diastereomer assigned; consistent with TS minimizing steric interactions between methyl and dithiane groups"}], "evidence_types_used": ["isolation_of_intermediate", "stoichiometric_intermediate", "other"], "evidence_strength": "medium", "notes": "Two indistinguishable pathways are proposed for the role of LiOMe: (i) deprotonated sulfonamide anion attacks the olefin radical cation as a better nucleophile, or (ii) N-centered radical is generated by oxidation at nitrogen and adds to the olefin; the authors note these can equilibrate by fast intramolecular electron transfer and both converge on cyclic C-radical 18. Major side pathway is deprotonation of the radical cation to give a neutral alkene that undergoes a second oxidation/MeOH trapping to give overoxidized products (e.g., 12, 13, 22, 28). Six-membered ring formation is intrinsically slower and more susceptible to elimination."}
